US08981085B2
(S)-tert-Butyl 1-(3-acetamido-5-bromo-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate (0.250 g, 0.570 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added, and the reaction was stirred at room temperature for 1 hour and concentrated to dryness. The resulting residue was then purified by reverse phase chromatography (Biotage SP4, C-18 25M+, 0-50% water:ACN). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirring solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (S)—N-(4-(3-aminopyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)acetamide hydrochloride (0.21 g, 90% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.17 (s, 1H), 7.24 (s, 1H), 4.10-4.05 (m, 1H), 3.95-3.84 (m, 2H), 3.79-3.70 (m, 2H), 2.37-2.32 (m, 1H), 2.07 (s, 3H), 2.02-1.96 (m, 2H). LCMS (APCI+) m/z 338, 340 (M+H)+.

reactant | (S)-tert-Butyl 1-(3-acetamido-5-bromo-1H-pyrrolo[2,3-b]pyridin-4-yl)pyrrolidin-3-ylcarbamate | 0.570 mmol, 0.250 g | C(C)(=O)NC1=CNC2=NC=C(C(=C21)N2C[C@H](CC2)NC(OC(C)(C)C)=O)Br | C18H24BrN5O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(4-(3-aminopyrrolidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)acetamide hydrochloride | 0.21 g, 90% yield | Cl.N[C@@H]1CN(CC1)C1=C2C(=NC=C1Br)NC=C2NC(C)=O | InChI=1S/C13H16BrN5O.ClH/c1-7(20)18-10-5-17-13-11(10)12(9(14)4-16-13)19-3-2-8(15)6-19;/h4-5,8H,2-3,6,15H2,1H3,(H,16,17)(H,18,20);1H/t8-;/m0./s1
